US08461149B2
Step 8: (R)-2-chloro-9-(3,3-difluorocyclopentyl)-7,7-dimethyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one
A mixture of (R)-methyl 3-((2-chloro-5-nitropyrimidin-4-yl)(3,3-difluorocyclopentyl)amino)-2,2-dimethylpropanoate (2.74 g, 6.98 mmol) and iron powder (0.799 g, 14.31 mmol) in glacial acetic acid (30 mL) was heated to 70° C. for 2 hours. The reaction mixture was filtered hot and the cake was further washed with acetic acid. The mother liquors were concentrated in vacuo. The residue was taken up in a 15% solution of methanol in dichloromethane and filtered through a pad of silica gel rinsing with more methanol-dichloromethane solution. The filtrates were concentrated in vacuo. The residue was triturated with methanol and the solid was filtered to afford the title compound as an off-white solid (1.67 g, 72% yield).

reactant | (R)-methyl 3-((2-chloro-5-nitropyrimidin-4-yl)(3,3-difluorocyclopentyl)amino)-2,2-dimethylpropanoate | 6.98 mmol, 2.74 g | ClC1=NC=C(C(=N1)N(CC(C(=O)OC)(C)C)[C@H]1CC(CC1)(F)F)[N+](=O)[O-] | C15H19ClF2N4O4
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 14.31 mmol, 0.799 g | [Fe] | Fe
product | (R)-2-chloro-9-(3,3-difluorocyclopentyl)-7,7-dimethyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 1.67 g, 72% yield | ClC=1N=CC2=C(N(CC(C(N2)=O)(C)C)[C@H]2CC(CC2)(F)F)N1 | C14H17ClF2N4O
